US05032590
1-(4-Fluorophenyl)-4-methyl-2-phenyl-penten-3-one
31 g (0.25 mol) of 4-fluorobenzaldehyde, 40.6 g (0.25 mol) of benzyl isopropyl ketone, 2.5 ml of piperidine and 1.75 ml of glacial acetic acid are boiled in a water separator for 20 hours in 200 ml of toluene. After removing the solvent, the residue is distilled through a 20 cm Vigreux column.

reactant | 4-fluorobenzaldehyde | 0.25 mol, 31 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | benzyl isopropyl ketone | 0.25 mol, 40.6 g | C(C)(C)C(=O)CC1=CC=CC=C1 | C11H14O
reactant | piperidine | 2.5 ml | N1CCCCC1 | C5H11N
reactant | acetic acid | 1.75 ml | C(C)(=O)O | C2H4O2
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 1-(4-Fluorophenyl)-4-methyl-2-phenyl-penten-3-one | FC1=CC=C(C=C1)C=C(C(C(C)C)=O)C1=CC=CC=C1 | C18H17FO
